US07625932B2
Preparation of 4-cyano-3-(2′-cyano-biphenyl-4-yl)-1-methyl-5-trifluoromethyl-1H-pyrrole-2-carboxylic acid ethyl ester
Prepare the title compound in a manner analogous to the procedure described in Scheme IIIa. For example, place ethyl 4-cyano-1-methyl-5-(trifluoromethyl)-3-{4-[(trifluoromethyl)sulfonyloxy]phenyl}pyrrole-2-carboxylate (11.0 mmol, prepared in example E-277), 2-cyano-phenyl boronic acid (1.5 mmol), palladium (II) acetate (0.12 mmol), triphenylphosphate (0.24 mmol), and tribasic potassium phosphate (3.6 mmol) in a round bottom flask and add dioxane. Heat reaction to reflux for 18 hours, remove the heat and wash with water while extracting with ethyl acetate. Dry organics with sodium sulfate, filter, and concentrate in vacuo. Purify the residue via radial chromatography eluting with methylene chloride, ethyl acetate and hexane to provide the title compound.

reactant | ethyl 4-cyano-1-methyl-5-(trifluoromethyl)-3-{4-[(trifluoromethyl)sulfonyloxy]phenyl}pyrrole-2-carboxylate | 11.0 mmol | C(#N)C=1C(=C(N(C1C(F)(F)F)C)C(=O)OCC)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C17H12F6N2O5S
reactant | 2-cyano-phenyl boronic acid | 1.5 mmol | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | triphenylphosphate | 0.24 mmol | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O4P
reactant | potassium phosphate | 3.6 mmol | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium (II) acetate | 0.12 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-cyano-3-(2′-cyano-biphenyl-4-yl)-1-methyl-5-trifluoromethyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C#N)C(F)(F)F)C | C23H16F3N3O2
